US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-nitrophenyl)-4,5,6,7-tetrahydroindole ##SPC98##
A mixture of 40 g. (0.15 mole) of 2-(p-nitrophenacyl)cyclohexanone, 23 g. (0.15 mole) of 5-aminosalicylic acid and 187 ml. of glacial acetic acid was heated under reflux under nitrogen for 3 3/4 hours, diluted with water and extracted with ethyl acetate. The ethyl acetate solution was dried over sodium sulfate and concentrated to a red solid which was chromatographed on silica gel. The material eluted with 3% methanol in chloroform was recrystallied from acetonitrile to provide 3.8 g. (7%) of orange crystals, m.p. 241°-242°.

reactant | 2-(p-nitrophenacyl)cyclohexanone | 0.15 mole | [N+](=O)([O-])C1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C14H15NO4
reactant | 5-aminosalicylic acid | 0.15 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-nitrophenyl)-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=C(C=C1)[N+](=O)[O-] | C21H18N2O5
